US05496927
1,1,1-Trifluoro-3-[(N-acetylprolyl)alanylprolylamino]butan-2-ol
Ac-L-prolyl-L-alanyl-L-proline (1.17 g, 3.61 mmol) was suspended in dry acetonitrile (55 ml) under an argon atmosphere in a flask fitted with an overhead stirrer and internal thermometer. The suspension was cooled to -15° C. and N-methylmorpholine (0.40 ml, 3.61 mmol) was added followed by isobutylchloroformate (0.47 ml, 3.61 mmol) at such a rate as to maintain the internal reaction temperature at -10° to -15° C. Ten minutes after the addition was completed, a mixture of 3-hydroxy-4,4,4-trifluoro-2-butyl-amine hydrochloride (0.65 g, 3.61 mmol) and N-methylmorpho-line (0.40 ml, 3.61 mmol) in chloroform (25 ml) was added at such a rate as to maintain the internal reactiontemperature at -10° to -15° C. The reaction mixture was allowed to warm slowly to room temperature and then stirred at room temperature for 4 hours. The reaction mixture was evaporated on a rotary evaporator to an oily residue which was dissolved in water (65 ml) and treated with a mixed bed resin (J. T. Baker--ANGMI-615, 17 g). After 15 minutes the mixture was filtered and the filtrate evaporated on a rotary evaporator. Chromatography using methylene chloride--10% methanol as the eluent gave the above-named product, (0.37 g) in 23% yield.

reactant | L-prolyl-L-alanyl-L-proline | 3.61 mmol, 1.17 g | N1[C@H](C(=O)N[C@@H](C)C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C13H21N3O4
reactant | N-methylmorpholine | 3.61 mmol, 0.40 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 3.61 mmol, 0.47 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 3-hydroxy-4,4,4-trifluoro-2-butyl-amine hydrochloride | 3.61 mmol, 0.65 g | Cl.OC(C(C)N)C(F)(F)F
reactant | N-methylmorpho-line | 3.61 mmol, 0.40 ml | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 55 ml | C(C)#N | C2H3N
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,1,1-Trifluoro-3-[(N-acetylprolyl)alanylprolylamino]butan-2-ol | 23% yield | FC(C(C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@H]1N(CCC1)C(C)=O)=O)C)=O)=O)O)(F)F | C19H29F3N4O5
